US06013649
Part D: A cooled solution of 13 g (44 mmol) of 3-[(4-phenoxyphenyl)sulfonyl]propan-1-ol from Part C in 60 mL of anhydrous CH2Cl2 was treated with 25 mL (18 g, 178 mM) of triethylamine. The reaction mixture was then treated with a slurry of 28 g (178 mM) of pyridine-SO3 complex in 60 mL of methyl sulfoxide added over one-half hour. After stirring for one hour, the reaction mixture was poured over 500 mL of ice and ethyl acetate was added. The layers were separated and the organic layer was washed with 5% KHSO4 solution, water and brine, dried (MgSO4), and concentrated to afford 13 g of 3-[(4-phenoxyphenyl)sulfonyl]propan-1-al, suitable for the next reaction.

reactant | 3-[(4-phenoxyphenyl)sulfonyl]propan-1-ol | 44 mmol, 13 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)CCCO | C15H16O4S
reactant | triethylamine | 178 mM, 25 mL, 18 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | 3-[(4-phenoxyphenyl)sulfonyl]propan-1-al | 13 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)CCC=O | C15H14O4S
